US09353066B2
A mixture of 1-bromo-3,5-dinitrobenzene (5 g, 19.6 mmol), PdCl2(dppf)-dichloromethane adduct (0.802 g, 0.982 mmol), {4-[(1R)-2,2-difluoro-1-hydroxyethyl]phenyl}boronic acid (4.36 g, 21.6 mmol), and aqueous sodium carbonate (2 M, 29.5 mL, 58.9 mmol) in dioxane (65.6 mL) was degassed by sparging with nitrogen. The mixture was heated to 85° C. for 2 hours, and then allowed to cool to room temperature. The mixture was diluted with water, extracted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) to give (1R)-1-(3′,5′-dinitrobiphenyl-4-yl)-2,2-difluoroethanol as an off-white solid. MS ESI calc'd. for C14H9F2N2O4[M+H−H2O]+ 307, found 307.

reactant | 1-bromo-3,5-dinitrobenzene | 19.6 mmol, 5 g | BrC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3BrN2O4
reactant | {4-[(1R)-2,2-difluoro-1-hydroxyethyl]phenyl}boronic acid | 21.6 mmol, 4.36 g | FC([C@H](O)C1=CC=C(C=C1)B(O)O)F | C8H9BF2O3
reactant | sodium carbonate | 58.9 mmol, 2 M, 29.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 65.6 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) dichloromethane | 0.982 mmol, 0.802 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | (1R)-1-(3′,5′-dinitrobiphenyl-4-yl)-2,2-difluoroethanol | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=C(C=C1)[C@H](C(F)F)O | C14H10F2N2O5
